US09376436B2
Anhydrous MeCN (5 mL) was added to a dry vial charged with (5S)-7-methyl-2-[4-[4-(trifluoromethyl)phenyl]-2-pyridyl]-1,7-diazaspiro[4.4]non-1-en-6-one (which may be prepared as described in Description 118) (339.99 mg, 0.9100 mmol). Selectfluor (1500 mg, 4.23 mmol) was added to the solution followed by trifluoroacetic acid (0.04 mL, 0.5300 mmol). The vial was sealed under nitrogen and was heated to 90° C. for 24 h. The reaction mixture was allowed to cool to room temperature whence it was poured onto 0.5M sodium hydroxide. The mixture was left to stir for 10 min and extracted with ether. The combined organic layer was dried (sodium sulfate), filtered and the filtrate was evaporated to give an amber oil. The crude residue was purified by silica gel chromatography (10 g SiO2) eluting with ethyl acetate in iso-hexane (10-100%). Evaporation of desired fractions gave (5R)-3-fluoro-7-methyl-2-[4-[4-(trifluoromethyl)phenyl]-2-pyridyl]-1,7-diazaspiro[4.4]non-1-en-6-one, as an amber oil, a 2:1 mixture of epimers. The isomers were separated by chiral semi-prep hplc using a ChiralPak AD-H column eluting with ethanol/n-heptane (20%:80%) to obtain a faster running epimer (D119a) (28 mg);

reactant | (5S)-7-methyl-2-[4-[4-(trifluoromethyl)phenyl]-2-pyridyl]-1,7-diazaspiro[4.4]non-1-en-6-one | 0.9100 mmol, 339.99 mg | CN1C([C@]2(CCC(=N2)C2=NC=CC(=C2)C2=CC=C(C=C2)C(F)(F)F)CC1)=O | C20H18F3N3O
reactant | Selectfluor | 4.23 mmol, 1500 mg | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
reactant | trifluoroacetic acid | 0.5300 mmol, 0.04 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydroxide | 0.5M | [OH-].[Na+]
solvent | MeCN | 5 mL | CC#N | C2H3N
product | (5R)-3-fluoro-7-methyl-2-[4-[4-(trifluoromethyl)phenyl]-2-pyridyl]-1,7-diazaspiro[4.4]non-1-en-6-one | FC1C(=N[C@]2(C1)C(N(CC2)C)=O)C2=NC=CC(=C2)C2=CC=C(C=C2)C(F)(F)F | C20H17F4N3O
